US06096736
To a suspension of 60% NaH (33.8 g) in tetrahydrofuran (2 liters) is added dropwise triethylphosphonoacetate (189 ml) under ice-cooling, and the mixture is stirred at room temperature for 1.5 hour. To the mixture is added 1-(p-toluenesulfonyl)-5-oxo-2,3,4,5-tetrahydro-1H-benzazepine (150 g) in portions at room temperature, and the mixture is stirred at 50° C. for 8 hours. To the reaction solution is added water, and the mixture is extracted three time with ethyl acetate. The organic layer is washed with water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The resulting crystals are collected by filtration, washed with n-hexane, and dried to give 1-(p-toluenesulfonyl)-5-ethoxycarbonylmethylidene-2,3,4,5-tetrahydro-1H-benzazepine (170.4 g).

reactant | NaH | 33.8 g | [H-].[Na+]
reactant | 1-(p-toluenesulfonyl)-5-oxo-2,3,4,5-tetrahydro-1H-benzazepine | 150 g | C1(=CC=C(C=C1)S(=O)(=O)N1CCCC(C2=C1C=CC=C2)=O)C | C17H17NO3S
reactant | water | O | H2O
reactant | tetrahydrofuran | 2 liters | O1CCCC1 | C4H8O
product | 1-(p-toluenesulfonyl)-5-ethoxycarbonylmethylidene-2,3,4,5-tetrahydro-1H-benzazepine | 170.4 g | C1(=CC=C(C=C1)S(=O)(=O)N1CCCC(C2=C1C=CC=C2)=CC(=O)OCC)C | C21H23NO4S
